US06350749B1
A mixture of 5-(2-furyl)cyclohexane-1,3-dione (1.78 g) and ammonium acetate (2.3 g) in ethanol (35 ml) was refluxed for 15 hours, and the reaction solution was concentrated under reduced pressure. To the residue was added water (30 ml), and the resulting crystals were filtered. The crystals were washed with water and ethyl acetate, and dried to give 1-amino-5-(2-furyl)cyclohexen-3-one (1.35 g) as pale yellow crystals.

reactant | 5-(2-furyl)cyclohexane-1,3-dione | 1.78 g | O1C(=CC=C1)C1CC(CC(C1)=O)=O | C10H10O3
reactant | ammonium acetate | 2.3 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 1-amino-5-(2-furyl)cyclohexen-3-one | 1.35 g | NC1=CC(CC(C1)C=1OC=CC1)=O | C10H11NO2
